US07514470B2
N-[4-Cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)glycine
A mixture of 1,1-dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)glycinate (5.01 g, 14.1 mmol), TFA (50 mL), and triethylsilane (5 mL) in CH2Cl2 (50 mL) was stirred at ambient temperature for 3 h. When the TLC indicated no remaining starting material, the solvents were removed under reduced pressure, and the residue was stirred in hexane (50 mL) for 12 hours. The solid precipitate was filtered and dried to obtain 2.9 g (71%) of the title compound as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.61 (d, J=8.8 Hz, 1H), 6.97 (d, J=2.8 Hz, 1H), 6.78 (dd, J=8.8, 2.8 Hz, 1H), 4.29 (s, 2H), 3.34 (d, J=6.4 Hz, 2H), 1.37 (m, 1H), 0.64 (m, 2H), 0.27 (m, 2H).

reactant | 1,1-dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)glycinate | 14.1 mmol, 5.01 g | C(#N)C1=C(C=C(C=C1)N(CC(=O)OC(C)(C)C)CC1CC1)C(F)(F)F | C18H21F3N2O2
reactant | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 5 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[4-Cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)glycine | 2.9 g, 71% | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC1CC1)C(F)(F)F | C14H13F3N2O2
